Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L flank pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ F w/ depression and asthma who presents with new onset left 
flank pain worsened with movement. Three weeks ago had fall onto 
left side on public transpotation, otherwise she has no history 
of similar pain. Denies nausea or vomiting or change in BM. 
Continues to pass gas. No abdominal pain, no dysuria or 
hematuria, no history of UTI. Denies fevers, shortness of breath 
or pleuritic componenet to pain. She has hot flashes as she is 
going through menopause, is sexually active with one male 
partner, no protection, LMP is about a year ago and has been 
having oligomenorrhea for some time. Pain is not cyclical. 
Recently started on fluoxetine for depression. No EtOH.

She is unable to lie on her left side secondary to pain and has 
not found anything that improves it. She has no history of 
spleenic or renal issues. 
 
In the ED her initial VS were: 97.7 50 139/88 18 98%. She 
underwent a CTU which was negative for a stone, a cxr which was 
wnl, UA negative for blood, and labs were notable for an 
initially elevated lipase at 100 that increased to 424 while in 
the ED. She also ruled out for MI with two negative troponins. 
SHe was given 2mg IV morphine and admitted for management of her 
pain.  

On arrival to the floor she reports the pain is still present 
and mostly that she is very itchy especially on her back. She is 
hungry and would like to eat as she hasn't had food all day.  

This AM her itching has improved and she reports improvement 
with hot pack and flexeril.

 
Past Medical History:
Asthma  
Depression
 
Social History:
___
Family History:
NC 
 
Physical Exam:
ADMISSION
VS: 97.5 128/75 60 16 99RA
GENERAL: well appearing, in NAD  
HEENT: PEERLA, MMM, supple neck, no LAD  
LUNGS: CTA bilat, no wheezes present, moving good air 
bilaterally  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: Soft, nontender, mildly ympanitic, normoactive bowel 
sounds. Unable to palpate spleen span, no hepatomegaly present. 
No palpable masses present  
Back- patient with tenderness to palpation of left ~10th rib 
region with associated muscle spasm felt in the paraspinal 
muscle on the left which lead to exacerbation of her pain  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout 

DISCHARGE
VS: 97.5 128/75 60 16 99RA
GENERAL: well appearing, in NAD  
HEENT: PEERLA, MMM, supple neck, no LAD  
LUNGS: CTA bilat, no wheezes present, moving good air 
bilaterally  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: Soft, nontender, mildly ympanitic, normoactive bowel 
sounds. Unable to palpate spleen span, no hepatomegaly present. 
No palpable masses present  
Back- patient with tenderness to palpation of left ~10th rib 
region with associated muscle spasm felt in the paraspinal 
muscle on the left which lead to exacerbation of her pain  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

 
Pertinent Results:
ADMISSION

___ 10:35AM BLOOD WBC-5.8 RBC-4.85 Hgb-13.4 Hct-41.9 MCV-86 
MCH-27.7 MCHC-32.0 RDW-14.1 Plt ___
___ 10:35AM BLOOD Glucose-79 UreaN-19 Creat-0.9 Na-140 
K-6.3* Cl-105 HCO3-24 AnGap-17
___ 10:35AM BLOOD Lipase-100*
___ 05:55PM BLOOD Lipase-424*
___ 10:35AM BLOOD Albumin-4.5

LIPASES

___ 10:35AM BLOOD Lipase-100*
___ 05:55PM BLOOD Lipase-424*
___ 07:30AM BLOOD Lipase-31

TROPONINS

___ 10:35AM BLOOD cTropnT-<0.01
___ 05:55PM BLOOD cTropnT-<0.01

IMAGING
1.  No evidence of hydronephrosis or renal or ureteral stones.   

  
2.  Round structure adjacent to a proximal loop of small bowel 
in the left 
lower quadrant, possibly reflecting a small bowel diverticulum 
vs. a lesion 
adjacent to the bowel such as a duplication cyst or lymph node.  
There is no 
adjacent stranding to suggest active inflammation of this 
structure.  
Nonemergent MR enterography is recommended for further 
characterization.  
  
3.  Degenerative changes involving the L5-S1 level, including 
spondylolysis of 
L5 with mild L5 over S1 anterolisthesis.   
  
4.  Sigmoid diverticulosis without diverticulitis. 

DISCHARGE

___ 07:30AM BLOOD WBC-4.0 RBC-4.46 Hgb-12.3 Hct-38.2 MCV-86 
MCH-27.5 MCHC-32.1 RDW-14.0 Plt ___
___ 07:30AM BLOOD Glucose-88 UreaN-10 Creat-0.8 Na-140 
K-4.3 Cl-106
___ 07:30AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.___RIEF HOSPITAL COURSE AND ACTIVE ISSUE (L FLANK PAIN)
___ F w/ depression and asthma who presents with new onset left 
flank pain worsened with movement. Lipase elevated to 400 in ED, 
but patient clinically without findings suggestive of 
pancreatitis without other laboratory findings suggestive of 
this. Tolerating regular diet. UA/CTurogram negative for stone. 
HCG negative. Pain reproducible with palpation and movement, so 
most likely differential is MSK pain vs. early shingles. Given 
Flexeril and heat pack with improvement of pain. Lipase trended 
back to 30 on ___. Unclear etiology of transient elevation.

INACTIVE ISSUES
#Pruritus- Side effect of morphine she received in the ED. 
Treated with PRN Benadryl.
#Asthma- no signs of asthma exacerbation on exam currently.
#Depression- stable. Continued home fluoxetine  

TRANSITIONAL ISSUES
# Incidental finding of round structure adjacent to a proximal 
loop of small bowel in the left lower quadrant, possibly 
reflecting a small bowel diverticulum vs. a lesion adjacent to 
the bowel such as a duplication cyst or lymph node.  There is no 

adjacent stranding to suggest active inflammation of this 
structure. Nonemergent MR enterography is recommended for 
further characterization.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough 
2. Fluoxetine 40 mg PO DAILY 
3. Acetaminophen 325-650 mg PO Q6H:PRN pain 
4. Vitamin D 1000 UNIT PO DAILY 
5. DiphenhydrAMINE 25 mg PO Q8H:PRN itching 
hold for sedation 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough 
2. DiphenhydrAMINE 25 mg PO Q8H:PRN itching 
3. Fluoxetine 40 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Acetaminophen 325-650 mg PO Q6H:PRN pain 
6. Cyclobenzaprine 5 mg PO HS muscle pain Duration: 1 Doses 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth HS Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Musculoskeletal left flank pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Thank you for choosing us for your care. You were admitted for 
left sided flank pain. We did labs and imaging to make sure this 
was not from a kidney stone, pregnancy, or dangerous 
intraabdominal process. Currently we believe this is from muscle 
strain. We gave you a heating pack and the muscle relaxant 
Flexeril and you reported feeling better.

If you develop a rash in the distribution of your pain, please 
call your PCP, as you may have shingles.

We have made the following changes to your medications:
Please START Flexeril 5mg at bedtime AS NEEDED for muscle pain
 
Followup Instructions:
___